US04925834
500 ml of 19-methylthio-4-androsten-3,17-dione (Euoprean patent 100,566) in 10 ml of dimethoxyethane is added drop by drop at 0° C. to a suspension of 5.73 g of fluoromethyl triphenylphosphonium tetrafluoroborate in 40 ml of dimethoxyethane, which was stirred with 9.5 ml of butyllithium solution (1.6 m in ether) for 0.5 hour, instilled and stirred for another 15 minutes. Then saturated ammonium chloride solution is added, diluted with water, extracted three times with ethyl acetate, washed neutral, dried on sodium sulfate and concentrated in a vacuum. After chromatography on silica gel with hexane/ethyl acetate, 331 mg of pure 3-fluoromethylene-19-methylthio-4-androsten-17-one with a melting point of 146°-147° C. [α]D +288.4° (CHCl3) as E:Z mixture is obtained.

reactant | 19-methylthio-4-androsten-3,17-dione | 500 ml | CSC[C@]12CCC(C=C1CC[C@H]1[C@@H]3CCC([C@@]3(C)CC[C@H]21)=O)=O | C20H28O2S
reactant | fluoromethyl triphenylphosphonium tetrafluoroborate | 5.73 g | F[B-](F)(F)F.FC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | butyllithium | 9.5 ml | C(CCC)[Li]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 40 ml | C(OC)COC | C4H10O2
solvent | water | O | H2O
product | 3-fluoromethylene-19-methylthio-4-androsten-17-one | 331 mg | FC=C1C=C2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)CSC)=O | C21H29FOS
